US05247085
a) Diethyl [2-benzyloxy-1-(benzyloxymethyl)ethoxy]methylphoshonate
Dry HCl gas was bubbled through an ice-cooled solution of 1,3-dibenzyloxypropan-2-ol (25 g, 0.092 mol) and paraformaldehyde (2.75 g, 0.092 mol) in dry dichloromethane (100 ml) for 1 hour. The resulting solution was dried (MgSO4) and evaporated to dryness to leave an oil. Triethyl phosphite (15.7 ml, 0.092 mol) was added and the resulting mixture stirred and heated at 140° C. for 16 hours. The liquid obtained was dissolved in ethyl acetate and washed with sodium bicarbonate solution. The organic phase was washed with brine, dried (MgSO4) and evaporated to give a mobile oil, which was chromotographed in silica (hexane/ethyl acetate 50:50 as eluant) to give the title compound as a colourless, mobile oil (19.7 g, 51). IR: νmax (film) 3055, 3020, 2900, 2860, 1490, 1470, 1450, 1390, 1305, 1255, 1095, 1050, 1030, 970, 820, 770, 735, 700 cm-1. 1H NMR: δH (CDCl3) 1.3 (6H, t, J=7 Hz, P-(OCH2CH3)2), 3.6 (4H, d, 2×CH2OCH2Ph),3.8-4.05 (1H, m, CH), 4.05 (2H, d, J=9 Hz, OCH2P), 4.0-4.3 (4H, m, P-(OCH2CH3)2), 4.55 (4H, s, 2×OCH2Ph), 7.38 (10H, s, 2×Ph). C22H31PO6 requires: C, 62.54; H, 7.42. Found: C, 62.75, H, 7.61. m/z: C22H31PO6 requires 422.1858; observed (M+) 422.1864.

reactant | 1,3-dibenzyloxypropan-2-ol | 0.092 mol, 25 g | C(C1=CC=CC=C1)OCC(COCC1=CC=CC=C1)O | C17H20O3
reactant | paraformaldehyde | 0.092 mol, 2.75 g | C=O | CH2O
reactant | Triethyl phosphite | 0.092 mol, 15.7 ml | P(OCC)(OCC)OCC | C6H15O3P
solvent | dichloromethane | 100 ml | ClCCl | CH2Cl2
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | Diethyl [2-benzyloxy-1-(benzyloxymethyl)ethoxy]methylphoshonate | C(C1=CC=CC=C1)OCC(OCP(OCC)(OCC)=O)COCC1=CC=CC=C1 | C22H31O6P
